US05578620
2-[2-(3-Chlorophenoxymethyl)morpholino]propanol
A solution of 1.50 g of ethyl 2-[6-(3-chlorophenoxymethyl)-3-oxomorpholin-4-yl]propionate in 10 ml of anhydrous tetrahydrofuran was added dropwise to a suspension of 0.51 g of lithium aluminum hydride in 20 ml of anhydrous tetrahydrofuran, whilst ice-cooling. The mixture was stirred at room temperature for 2.5 hours, after which excess lithium aluminum hydride was decomposed by adding sodium sulfate decahydrate to the mixture. Insolubles were then removed from the reaction mixture by filtration with the help of a Celite (trade name) filter aid, and the solvent was removed from the filtrate by evaporation under reduced pressure, to give 0.97 g of the title compound having an Rf value of 0.19 (on silica gel thin layer chromatography, using a 3:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | ethyl 2-[6-(3-chlorophenoxymethyl)-3-oxomorpholin-4-yl]propionate | 1.50 g | ClC=1C=C(OCC2OCC(N(C2)C(C(=O)OCC)C)=O)C=CC1 | C16H20ClNO5
reactant | lithium aluminum hydride | 0.51 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[2-(3-Chlorophenoxymethyl)morpholino]propanol | 0.97 g | ClC=1C=C(OCC2OCCN(C2)C(CO)C)C=CC1 | C14H20ClNO3
